US08114887B2
To a solution of 3.0 g (7.188 mmol) 4-(cyclohexylamino)-1-(3-fluorophenyl)-2-oxo-1,3-diaza-8-azoniaspiro[4.5]dec-3-ene dihydrochloride in 30 mL THF:AcOH (9:1) was added 1.8 g (12.005 mmol) 3-formylphenylboronic acid and 5.53 g (21.567 mmol) PS-DIEA resin and 5.97 g (14.388 mmol) MP-cyanoborohydride resin. The heterogeneous reaction mixture was stirred at rt for 24 hrs, then filtered, washed with 100 mL methanol, and concentrated. Purification by automated flash chromatography (8-30% CH3CN/H2O over 41 min, 0.05% added TFA reverse phase YMC ODSA 120 Å, 15-30 μM particle size,) afforded 3-{[4-(cyclohexylamino)-1-(3-fluorophenyl)-2-oxo-1,3,8-triazaspiro[4.5]dec-3-en-8-yl]methyl}phenylboronic acid as a solid. 1H NMR (CD3OD, 400 MHz) δ 7.44 (m, 1H), 7.38 (d, J=7.32 Hz, 1H), 7.29 (s, 1H), 7.18 (m, 1H), 7.09 (m, 3H) 6.93 (m, 1H), 3.75 (m, 1H), 3.31 (s, 2H), 2.78 (m, 2H), 2.12 (m, 4H), 1.97 (m, 4H), 1.78 (m, 2H), 1.65 (m, 1H), 1.35 (m, 5H). High resolution mass spec (FT/ICR) calc M+H=478.2661 found 478.2709.

reactant | 4-(cyclohexylamino)-1-(3-fluorophenyl)-2-oxo-1,3-diaza-8-azoniaspiro[4.5]dec-3-ene dihydrochloride | 7.188 mmol, 3.0 g | Cl.Cl.C1(CCCCC1)NC1=NC(N(C12CC[NH2+]CC2)C2=CC(=CC=C2)F)=O
reactant | 3-formylphenylboronic acid | 12.005 mmol, 1.8 g | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | cyanoborohydride | C(#N)[BH3-]
solvent | THF AcOH | 30 mL | C1CCOC1.CC(=O)O
product | 3-{[4-(cyclohexylamino)-1-(3-fluorophenyl)-2-oxo-1,3,8-triazaspiro[4.5]dec-3-en-8-yl]methyl}phenylboronic acid | C1(CCCCC1)NC1=NC(N(C12CCN(CC2)CC=2C=C(C=CC2)B(O)O)C2=CC(=CC=C2)F)=O | C26H32BFN4O3
